US06833370B1
tert-butyl 4-methyl-3-pyridinylcarbamate
3-Amino-4-methylpyridine (2.9 g, 27 mmol) in anhydrous THF (50 mL) was cooled to 0° C. and treated with a solution of sodium hexamethyldisilazide (27 mL, 2M in THF; Fluka). The reaction mixture was stirred at ambient temperature for 5 minutes and then cooled again to 0° C. and treated with a solution of di-tert-butyl dicarbonate (5.4 g, 24.8 mmol; Aldrich) in THF. After stirring for 3 hours at ambient temperature, the residue was partitioned between ethyl acetate and 0.1N HCl. The aqueous phase was neutralized with sodium bicarbonate and reextracted with ethyl acetate. The combined organic phases were dried with sodium sulfate and the residue was purified by chromatography on SiO2 (ethyl acetate/hexanes, 5% to 50%) to provide the title compound (3.6 g, 70%). MS (CI/NH3) m/z 209 (M+H)+.

reactant | 3-Amino-4-methylpyridine | 27 mmol, 2.9 g | NC=1C=NC=CC1C | C6H8N2
reactant | sodium hexamethyldisilazide | 2M, 27 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | di-tert-butyl dicarbonate | 24.8 mmol, 5.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-methyl-3-pyridinylcarbamate | 3.6 g, 70% | CC1=C(C=NC=C1)NC(OC(C)(C)C)=O | C11H16N2O2
